data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][O+:21]=C(C=C)OCC.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCOC(=[O:21])C=C 10=20;20,21=21
[H:20][O:21]C(=O)C=C(CC1=CC=CC=C1)O.[OH-:10]>>[H:20][OH:10].C1=CC=C(C=C1)CC(=CC(=O)[O-:21])O 10=20;20,21=21
[H:20][O:21]C(CCCC)C(=CC(=O)CCCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC[OH:10]>>[H:20][OH+:10]CC.CCCCC(C(=CC(=O)CCCC)[P+](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)[O-:21] 10=20;20,21=21
C1=CC=C(C=C1)[P+:22](C2=CC=CC=C2)(C3=CC=CC=C3)[O:21][CH2:20]CC4=CNC5=CC=CC=C54.[Br-:10].C(Br)(Br)Br>>C1=CC=C(C=C1)[P:22](=[O:21])(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C2C(=C1)C(=CN2)C[CH2:20][Br:10].C(Br)(Br)Br 10=20;20,21=21,22
[H:20][OH:21].C=CCCC(CCCCC(=O)[O-:10])C(=O)O>>[H:20][O:10]C(=O)CCCCC(CCC=C)C(=O)O.[OH-:21] 10=20;20,21=21
C[O+:11]=[CH:10][S-]>>C[O:11][CH+:10][S-] 10,11=11
C[C:11]1=[CH:10]C2=C(C=CC=C2)C=C1.O[S+:20](=O)=O>>C[C+:11]1C=CC2=C([CH:10]1[S:20](=O)(=O)O)C=CC=C2 10,11=10,20
CCC(C)C(C(=O)NCC1=CC=CC=C1)N[C:20](=[OH+:21])[O:10][C:11](C)(C)C.C(=O)(C(F)(F)F)[O-].[Cl-]>>CCC(C)C(C(=O)NCC1=CC=CC=C1)N[C:20](=[O:10])[OH:21].C[C+:11](C)C.C(=O)(C(F)(F)F)[O-].[Cl-] 10,11=10,20;20,21=21
[H:20][Cl:21].CC1(CCC[CH:10]=[C:11]1C2=CC=CC=C2)C>>[H:20][CH:10]1CCCC([C+:11]1C2=CC=CC=C2)(C)C.[Cl-:21] 10,11=10,20;20,21=21
[Li:20][O+]=C1C=CC(CC1(C)CC=C(C)[Si](C)(C)C)(C)C.[I-:10].CC(C)NC(C)C>>[Li-:20]([O+]=C1C=CC(CC1(C)CC=C(C)[Si](C)(C)C)(C)C)[I:10].CC(C)NC(C)C 10=20,
C[CH:20]=[Br+:21].[Cl-:10]>>C[CH:20]([Cl:10])[Br:21] 10=20;20,21=21
CCC1C=CC(C(C1C(=O)N[NH:10]C)CCCC#N)O.[CH3:20][I:21].C(=O)([O-])O[K].[K+]>>CCC1C=CC(C(C1C(=O)N[NH+:10](C)[CH3:20])CCCC#N)O.[I-:21].C(=O)([O-])O[K].[K+] 10=20;20,21=21
[H:20][O:21]C(=O)CCC=O.CC[NH2:10]>>[H:20][NH2+:10]CC.C(CC(=O)[O-:21])C=O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CCOC(=O)C(CC(=O)C)C(=[O:10])C.CO>>[H:20][O+:10]=C(C)C(CC(=O)C)C(=O)OCC.OS(=O)(=O)[O-:21].CO 10=20;20,21=21
C[Si-:10](C)(C)([O:11]CC1=C(C=CC=C1)[Sn](C)(C)C)F>>C[Si:10](C)(C)F.C[Sn](C)(C)C1=C(C=CC=C1)C[O-:11] 10,11=11
[H:20][NH+:21](C1=C(C=CC2=C1CCC3C2CCC4(C3CCC4=O)C)OC)N=O.[B-](F)(F)(F)F.[OH2:10]>>[H:20][OH2+:10].[B-](F)(F)(F)F.CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4[NH:21]N=O)OC 10=20;20,21=21
[H:20][O:21]S(=O)(=O)C1=CC=C(C=C1)C.C1CCC(=[O:10])CC1.C1=CC(=C(C=C1)O)O>>[H:20][O+:10]=C1CCCCC1.CC1=CC=C(C=C1)S(=O)(=O)[O-:21].C1=CC(=C(C=C1)O)O 10=20;20,21=21
[H:20][CH:21](CC(=O)C)[C:22](=[NH+:23]C1=NC(=CC=C1)Br)C.CC(=O)[O-:10].O>>[H:20][O:10]C(=O)C.CC(=O)C[CH:21]=[C:22](C)[NH:23]C1=NC(=CC=C1)Br.O 10=20;22,23=23;20,21=21,22
COC1=C(C=CC(=C1)CC2C(CO[C:20]2=[O:21])C(C3=CC(=C(C=C3)O)OC)O)O.[OH:10][Na]>>COC1=C(C=CC(=C1)CC2C(CO[C:20]2([O-:21])[OH+:10][Na])C(C3=CC(=C(C=C3)O)OC)O)O 10=20;20,21=21
CC[NH2:10].CC(=O)O[C:20](=[O:21])CCC=O>>CC[NH2+:10][C:20](CCC=O)([O-:21])OC(=O)C 10=20;20,21=21
[H:20][O+:21]=C(C)C(C)(CC=C)CC=C.C(=O)[O-:10].O>>[H:20][O:10]C=O.CC(=[O:21])C(C)(CC=C)CC=C.O 10=20;20,21=21
C[CH+:20]C.CC(=O)C1=CC2=C([CH:10]=[CH:11]C=C2)C=C1>>C[CH:20](C)[CH:10]1[CH+:11]C=CC2=C1C=CC(=C2)C(=O)C 10,11=10,20
[H:20][CH:21](C1=CC=CC=C1)[C:22](=[O:23])C.CC[O-:10]>>[H:20][O:10]CC.C[C:22](=[CH:21]C1=CC=CC=C1)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][C:21]1(C(=CC(=C[C:22]1=[OH+:23])O)O)C(=N)CC2=CC=C(C=C2)O.[OH2:10].CCOCC.OS(=O)(=O)[O-]>>[H:20][OH2+:10].C1=CC(=CC=C1CC(=N)[C:21]2=[C:22](C=C(C=C2O)O)[OH:23])O.CCOCC.OS(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
[H:20][OH2+:21].CC[N:10](C)[AlH3-]>>[H:20][N+:10](C)(CC)[AlH3-].[OH2:21] 10=20;20,21=21
C[C:20](=[O+:21]C)SC.C[OH:10]>>C[C:20]([OH+:10]C)([O:21]C)SC 10=20;20,21=21
C[N+:11](=[CH:10]S)C>>C[N:11](C)[CH+:10]S 10,11=11
C[NH:10]N.C1=CC(=CC=C1[CH2:20][Br:21])C#N>>C[NH+:10]([CH2:20]C1=CC=C(C=C1)C#N)N.[Br-:21] 10=20;20,21=21
CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4[NH2:10])OC.[N:20]#[O+:21].[B-](F)(F)(F)F.O.[Cl-]>>CC12CCC3C(C1CCC2=O)CCC4=C3C=CC(=C4[NH2+:10][N:20]=[O:21])OC.[B-](F)(F)(F)F.O.[Cl-] 10=20;20,21=21
[H:20][C:21](C)([C:22](=[O:23])C)C(=O)OCC.[OH-:10].COC1=C2C(=C(C=C1)[N+]#N)C(=CC=N2)C3=C(C=CC=C3)F.[Cl-]>>[H:20][OH:10].CCOC(=O)[C:21](=[C:22](C)[O-:23])C.COC1=C2C(=C(C=C1)[N+]#N)C(=CC=N2)C3=C(C=CC=C3)F.[Cl-] 10=20;22,23=23;20,21=21,22
CCC1=CC=C(C=C1)[CH:20]([C:11](C)([C:10]2=CC=CC(=C2)C3CCCCC3)[OH:12])[OH2+:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-]>>CCC1=CC=C(C=C1)[CH:20]([C:10]2=CC=CC(=C2)C3CCCCC3)[C:11](=[OH+:12])C.[OH2:21].C1=CC(=CC=C1C(F)(F)F)S(=O)(=O)[O-] 10,11=10,20;20,21=21;12=11
C[C:20](C#N)([O-:10])[Cl:21]>>C[C:20](=[O:10])C#N.[Cl-:21] 10=20;20,21=21
[H:20][O+:21](C1CCC23CC1CC2CCC4C3(CCC(=O)C4(C)C)C)I5(C6=C(C=CC=C6)C(=O)O5)(OC(=O)C)OC(=O)C.CC(=O)[O-:10].CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1>>[H:20][O:10]C(=O)C.CC(=O)OI1(C2=C(C=CC=C2)C(=O)O1)([O:21]C3CCC45CC3CC4CCC6C5(CCC(=O)C6(C)C)C)OC(=O)C.CC(=O)O.CC(=O)OI1C2=C(C=CC=C2)C(=O)O1 10=20;20,21=21
CC1[C:20]([Br+:21]1)(C)CCC[OH:10]>>CC([C:20]1(CCC[OH+:10]1)C)[Br:21] 10=20;20,21=21
COC1=CC=C(C=C1)[CH2:20][Br:21].C1CC[NH:10]CC1>>COC1=CC=C(C=C1)[CH2:20][NH+:10]2CCCCC2.[Br-:21] 10=20;20,21=21
[H:20][CH:21]1[C:22](=[O:23])CCC2C1(CCCC2)O.CC[O-:10]>>[H:20][O:10]CC.C1CCC2([CH:21]=[C:22](CCC2C1)[O-:23])O 10=20;22,23=23;20,21=21,22
